US04000143
A 50% sodium hydroxide solution (9.6 g., 0.12 mole) in 45 ml. of water is added to a solution of 5-diethylcarbamyl -2-(o-formamidophenethyl)-1-methylpyridinium iodide (46.7 g., 0.1 mole) in 300 ml. of methanol. Sodium borohydride (4.56 g., 0.12 mole) is added in portions with stirring to the reaction mixture. After 2 hr. the mixture is evaporated and water (500 ml.) is added to the resulting residue. This mixture is extracted with ether, the ethereal extracts washed with water, dried over magnesium sulfate and the ether evaporated. The resulting residue consisting of N,N-diethyl-6-(o-formamidophenethyl)-1-methyltetrahydropyridine-3-carboxamide hydrogenated in a Parr apparatus in 200 ml. of ethanol employing 4 g. of 10% palladium on carbon as the catalyst at a temperature of 50° -70° C. provides N,N-diethyl-6-(o-formamidophenethyl)-1-methylpiperidine-3-carboxamide.

reactant | sodium hydroxide | 0.12 mole, 9.6 g | [OH-].[Na+]
reactant | water | O | H2O
reactant | 5-diethylcarbamyl -2-(o-formamidophenethyl)-1-methylpyridinium iodide | 0.1 mole, 46.7 g | [I-].C(C)N(C(=O)C=1C=CC(=[N+](C1)C)CCC1=C(C=CC=C1)NC=O)CC
reactant | Sodium borohydride | 0.12 mole, 4.56 g | [BH4-].[Na+]
solvent | methanol | CO | CH4O
product | N,N-diethyl-6-(o-formamidophenethyl)-1-methylpiperidine-3-carboxamide | C(C)N(C(=O)C1CN(C(CC1)CCC1=C(C=CC=C1)NC=O)C)CC | C20H31N3O2
